US08710242B2
A mixture of 25 g (80.1 mmol) of tert-butyl (5-bromo-2,3-dihydro-1H-inden-1-yl)carbamate, 975 mg (3.20 mmol) of tris(2-methylphenyl)phosphine, 179 mg (797 μmol) of palladium(II) acetate and 8.9 g (103 mmol) of methyl acrylate in 150 ml of triethylamine was stirred at 150° C., for live hours. The precipitate was filtered off, and chromatographic purification afforded 19 g (59.9 mmol) of methyl (2E)-3-{1-[(tert-butoxycarbonyl)amino]-2,3-dihydro-1H-inden-5-yl}acrylate (75%).

reactant | tert-butyl (5-bromo-2,3-dihydro-1H-inden-1-yl)carbamate | 80.1 mmol, 25 g | BrC=1C=C2CCC(C2=CC1)NC(OC(C)(C)C)=O | C14H18BrNO2
reactant | methyl acrylate | 103 mmol, 8.9 g | C(C=C)(=O)OC | C4H6O2
solvent | triethylamine | 150 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium(II) acetate | 797 μmol, 179 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(2-methylphenyl)phosphine | 3.20 mmol, 975 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
product | methyl (2E)-3-{1-[(tert-butoxycarbonyl)amino]-2,3-dihydro-1H-inden-5-yl}acrylate | 59.9 mmol, 19 g, 75% | C(C)(C)(C)OC(=O)NC1CCC2=CC(=CC=C12)/C=C/C(=O)OC | C18H23NO4
